// Generated for: spectre
// Generated on: Apr 22 12:22:20 2015
// Design library name: 16nm_Tests
// Design cell name: ringOsc_Test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters vdd=.850
include "/software/cadence/ncsu-FreePDK15/hspice_16nm_hp.include"

// Library name: 16nm
// Cell name: inv_1x
// View name: schematic
subckt inv_1x A Y
    M0 (Y A 0 0) nfet w=60n l=20n nfin=1 m=1 degradation=no
    M1 (Y A vdd! vdd!) pfet w=100n l=20n nfin=1 m=1 degradation=no
ends inv_1x
// End of subcircuit definition.

// Library name: 16nm
// Cell name: nor_1x
// View name: schematic
subckt nor_1x A B Y
    M3 (Y B or_pd_ps vdd!) pfet w=200n l=20n nfin=1 m=1 degradation=yes
    M2 (or_pd_ps A vdd! vdd!) pfet w=200n l=20n nfin=1 m=1 \
        degradation=yes
    M1 (Y B 0 0) nfet w=60n l=20n nfin=1 m=1 degradation=no
    M0 (Y A 0 0) nfet w=60n l=20n nfin=1 m=1 degradation=no
ends nor_1x
// End of subcircuit definition.

// Library name: 16nm
// Cell name: nand_1x
// View name: schematic
subckt nand_1x A B Y
    M1 (Y B vdd! vdd!) pfet w=100n l=20n nfin=1 m=1 degradation=no
    M0 (Y A vdd! vdd!) pfet w=100n l=20n nfin=1 m=1 degradation=no
    M3 (net22 B 0 0) nfet w=120n l=20n nfin=1 m=1 degradation=no
    M2 (Y A net22 0) nfet w=120n l=20n nfin=1 m=1 degradation=no
ends nand_1x
// End of subcircuit definition.

// Library name: 16nm
// Cell name: TH22
// View name: schematic
subckt TH22 A B Y
    M5 (Y net5 0 0) nfet w=60n l=20n nfin=1 m=1 degradation=no
    M4 (net5 Y net9 0) nfet w=120n l=20n nfin=1 m=1 degradation=no
    M3 (net9 B 0 0) nfet w=120n l=20n nfin=1 m=1 degradation=no
    M2 (net9 A 0 0) nfet w=120n l=20n nfin=1 m=1 degradation=no
    M1 (net5 B net17 0) nfet w=120n l=20n nfin=1 m=1 degradation=no
    M0 (net17 A 0 0) nfet w=120n l=20n nfin=1 m=1 degradation=no
    M11 (Y net5 vdd! vdd!) pfet w=100n l=20n nfin=1 m=1 degradation=yes
    M10 (net5 B net032 vdd!) pfet w=200n l=20n nfin=1 m=1 \
        degradation=yes
    M9 (net032 A vdd! vdd!) pfet w=200n l=20n nfin=1 m=1 \
        degradation=yes
    M8 (net037 B vdd! vdd!) pfet w=200n l=20n nfin=1 m=1 \
        degradation=yes
    M7 (net037 A vdd! vdd!) pfet w=200n l=20n nfin=1 m=1 \
        degradation=yes
    M6 (net5 Y net037 vdd!) pfet w=200n l=20n nfin=1 m=1 \
        degradation=yes
ends TH22
// End of subcircuit definition.

// Library name: 16nm
// Cell name: and_1x
// View name: schematic
subckt and_1x A B Y
    I7 (A B ntYbar) nand_1x
    I6 (ntYbar Y) inv_1x
ends and_1x
// End of subcircuit definition.

// Library name: 16nm_Tests
// Cell name: ringOsc_Test
// View name: schematic
V1 (vdd! 0) vsource type=dc dc=vdd
I62 (nC10 nC0) inv_1x
I13\<2\> (inv1 net026\<0\>) inv_1x
I13\<1\> (inv1 net026\<1\>) inv_1x
I13\<0\> (inv1 net026\<2\>) inv_1x
I23\<2\> (inv0 net016\<0\>) inv_1x
I23\<1\> (inv0 net016\<1\>) inv_1x
I23\<0\> (inv0 net016\<2\>) inv_1x
I22\<2\> (inv10 net017\<0\>) inv_1x
I22\<1\> (inv10 net017\<1\>) inv_1x
I22\<0\> (inv10 net017\<2\>) inv_1x
I21\<2\> (inv9 net018\<0\>) inv_1x
I21\<1\> (inv9 net018\<1\>) inv_1x
I21\<0\> (inv9 net018\<2\>) inv_1x
I20\<2\> (inv8 net019\<0\>) inv_1x
I20\<1\> (inv8 net019\<1\>) inv_1x
I20\<0\> (inv8 net019\<2\>) inv_1x
I19\<2\> (inv7 net020\<0\>) inv_1x
I19\<1\> (inv7 net020\<1\>) inv_1x
I19\<0\> (inv7 net020\<2\>) inv_1x
I18\<2\> (inv6 net021\<0\>) inv_1x
I18\<1\> (inv6 net021\<1\>) inv_1x
I18\<0\> (inv6 net021\<2\>) inv_1x
I17\<2\> (inv5 net022\<0\>) inv_1x
I17\<1\> (inv5 net022\<1\>) inv_1x
I17\<0\> (inv5 net022\<2\>) inv_1x
I16\<2\> (inv4 net023\<0\>) inv_1x
I16\<1\> (inv4 net023\<1\>) inv_1x
I16\<0\> (inv4 net023\<2\>) inv_1x
I15\<2\> (inv3 net024\<0\>) inv_1x
I15\<1\> (inv3 net024\<1\>) inv_1x
I15\<0\> (inv3 net024\<2\>) inv_1x
I14\<2\> (inv2 net025\<0\>) inv_1x
I14\<1\> (inv2 net025\<1\>) inv_1x
I14\<0\> (inv2 net025\<2\>) inv_1x
I12 (inv5 inv6) inv_1x
I11 (inv10 inv0) inv_1x
I10 (inv4 inv5) inv_1x
I9 (inv9 inv10) inv_1x
I8 (inv3 inv4) inv_1x
I7 (inv8 inv9) inv_1x
I4 (inv2 inv3) inv_1x
I3 (inv7 inv8) inv_1x
I2 (inv1 inv2) inv_1x
I1 (inv6 inv7) inv_1x
I0 (inv0 inv1) inv_1x
I28 (no2 no2 nor3) nor_1x
I27 (nor7 nor7 nor8) nor_1x
I26 (nor1 nor1 no2) nor_1x
I25 (not6 not6 nor7) nor_1x
I24 (nor0 nor0 nor1) nor_1x
I29 (nor8 nor8 nor9) nor_1x
I30 (nor3 nor3 nor4) nor_1x
I31 (nor9 nor9 nor10) nor_1x
I32 (nor4 nor4 nor5) nor_1x
I33 (nor10 nor10 nor0) nor_1x
I34 (nor5 nor5 not6) nor_1x
I41 (nand0 nand0 nand1) nand_1x
I56 (nC2 nC2 nC3) TH22
I55 (nC6 nC6 nC7) TH22
I54 (nC1 nC1 nC2) TH22
I53 (nC5 nC5 nC6) TH22
I52 (nC0 nC0 nC1) TH22
I51 (nC7 nC7 nC8) TH22
I50 (nC3 nC3 nC4) TH22
I48 (nC9 nC9 nC10) TH22
I47 (nC4 nC4 nC5) TH22
I46 (nC8 nC8 nC9) TH22
I38 (nand9 nand9 nand10) and_1x
I37 (nand4 nand4 nand5) and_1x
I36 (nand10 nand10 nand0) and_1x
I35 (nand5 nand5 nand6) and_1x
I39 (nand3 nand3 nand4) and_1x
I40 (nand8 nand8 nand9) and_1x
I42 (nand6 nand6 nand7) and_1x
I43 (nand1 nand1 nand2) and_1x
I44 (nand7 nand7 nand8) and_1x
I45 (nand2 nand2 nand3) and_1x
ic nC10=vdd nC0=0 nand8=0 nand6=0 nand4=0 nand2=0 nand0=0 nor8=0 not6=0 \
    nor4=0 no2=0 nor0=0 inv8=0 inv6=0 inv4=0 inv2=0 inv0=0 
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=500p errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save inv0 nand0 nor0 nC0 
saveOptions options save=allpub
